US06005116
(d) 4-Chloro-5-(4-chlorophenyl)-3-hydroxyisoxazole
To a solution of 5-(4-chlorophenyl)-3-hydroxyisoxazole (50.0 g) in dry tetrahydrofuran (300 ml), a solution of sulfuryl chloride (34.5 g) in dry benzene (50 ml) was added dropwise with stirring at 5° C. The resulting mixture was stirred at the same temperature for 30 minutes and then at room temperature for one hour and further refluxed for 3 hours. The solvent of the reaction mixture was evaporated under reduced pressure, and the solid thus obtained was recrystallized from ethanol to obtain the title compound (44.2 g, 76.8%) as colorless needle-like crystals.

reactant | 5-(4-chlorophenyl)-3-hydroxyisoxazole | 50.0 g | ClC1=CC=C(C=C1)C1=CC(=NO1)O | C9H6ClNO2
reactant | sulfuryl chloride | 34.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 4-Chloro-5-(4-chlorophenyl)-3-hydroxyisoxazole | 44.2 g, 76.8% | ClC=1C(=NOC1C1=CC=C(C=C1)Cl)O | C9H5Cl2NO2
